US07067506B2
Step 2: 4-Aminomethyl-1-benzyl piperdine.
To a solution of N-benzylisonipecotamide (7.34g, 34 mmol) in 60 mL of anhydrous THF, was added, LiAlH4 (1.9 g, 51 mmol) and the mixture was stirred at room temperature for 10 minutes followed by heating to reflux for 3 h. The reaction was quenched by addition of 100 mL sat'd. sodium potassium tartrate, and was extracted with EtOAc (3×50 mL). The combined extracts were washed with 20 mL water and 20 mL brine then dried over MgSO4, filtered and concentrated to give the desired product. 1H-NMR (400 MHz, CDCl3) δ7.13 (m, 5H), 3.42 (s, 2H), 2H), 2.91 (m, 2H), 2.59 (m, 2H), 1.97 (m, 2H), 1.62 (m, 2H), 2.21 (m, 5H).

reactant | N-benzylisonipecotamide | 34 mmol, 7.34g | C(C1=CC=CC=C1)NC(C1CCNCC1)=O | C13H18N2O
reactant | LiAlH4 | 51 mmol, 1.9 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | THF | 60 mL | C1CCOC1 | C4H8O
product | 4-Aminomethyl-1-benzyl piperdine | NCC1CCN(CC1)CC1=CC=CC=C1 | C13H20N2
